US09029560B2
Preparation of 3-bromo-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole (C1)
To a 100 mL round bottomed flask, equipped with a stir bar, was added copper(I) iodide (0.397 g, 2.08 mmol), 3-bromo-1H-1,2,4-triazole (4.62 g, 31.2 mmol), and cesium carbonate (6.79 g, 20.83 mmol), as solids. These solids were diluted with anhydrous dimethyl sulfoxide (34.7 mL). Then 1-iodo-4-(trifluoromethoxy)benzene (1.65 mL, 10.4 mmol) was added as a liquid. The flask was placed under nitrogen atmosphere, and the suspension was heated to an internal temperature of 100° C. for 20 hours. The reaction mixture was allowed to cool to room temperature and filtered through a pad of Celite®, washing with excess ethyl acetate (200 mL). The filtrate was poured into a brine solution (200 mL), and the layers were partitioned. The aqueous phase was extracted with additional ethyl acetate (2×100 mL). The combined organic layers were dried over anhydrous magnesium sulfate, filtered, and concentrated. The resulting residue was purified via flash column chromatography using 10-50% ethyl acetate/hexanes as eluent to afford the title compound as a white solid (1.80 g, 54%): 1H NMR (400 MHz, DMSO-d6) δ 9.35 (s, 1H), 7.97 (d, J=8.9 Hz, 2H), 7.60 (d, J=8.4 Hz, 2H); 19F NMR (376 MHz, DMSO-d6) δ −57.06; ESIMS m/z 308, 310 ([M+H]+).

reactant | 3-bromo-1H-1,2,4-triazole | 31.2 mmol, 4.62 g | BrC1=NNC=N1 | C2H2BrN3
reactant | cesium carbonate | 20.83 mmol, 6.79 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-iodo-4-(trifluoromethoxy)benzene | 10.4 mmol, 1.65 mL | IC1=CC=C(C=C1)OC(F)(F)F | C7H4F3IO
solvent | dimethyl sulfoxide | 34.7 mL | CS(=O)C | C2H6OS
catalyst | copper(I) iodide | 2.08 mmol, 0.397 g | [Cu]I
product | 3-bromo-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole | 1.80 g, 54% | BrC1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C9H5BrF3N3O
